ROM motor channel 18; sol18_r16_l4.7e-06_emf0
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb-100/tools/spice/models.lib
Vcmd cmd 0 PWL(
+ 0.000000000000 0.00
+ 0.199999980000 0.00
+ 0.200000000000 4.50
+ 7.024363480000 4.50
+ 7.024363500000 0.00
+ 8.892211480000 0.00
+ 8.892211500000 4.50
+ 10.200000000000 4.50
+ 10.200000020000 0.00
+ 10.230000000000 0.00
+ )
Ro cmd a 40
Rg a gate 100
Rpd gate 0 10k
Vsense drain dq 0
XQ dq gate 0 J100_AOD66923
Vclamp clamprail 0 30
Vdiode drain da 0
Dfly da clamprail DS1M
Vraw raw 0 20
Rwire raw feed .1
Lplus feed motp 4.7e-06
Lmotor motp m1 10m
Rmotor m1 m2 16
Vbemf m2 m3 0
Lminus m3 m4 4.7e-06
Dseries m4 drain D1N4004
.save v(drain) v(gate) i(Vsense) i(Vdiode) @dfly[capcur]
.options reltol=.002 method=gear
.tran 100u 10.230000000 0 10u
.control
run
let pfet=v(drain)*i(Vsense)
let carrier=i(Vdiode)-@dfly[capcur]
let forward=(abs(carrier)+carrier)/2
let sim_end=time[length(time)-1]
print sim_end
meas tran vds_peak MAX v(drain)
meas tran vgs_peak MAX v(gate)
meas tran current_peak MAX i(Vsense)
meas tran current_avg AVG i(Vsense) from=0.200000000 to=10.200000000
meas tran diode_average AVG forward from=0.200000000 to=10.200000000
meas tran power_average AVG pfet from=0.200000000 to=10.200000000
let tj=50+power_average*62
print tj
.endc
.end
